US04481029
Methyl 3-[[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]aminosulfonyl]-2-thiophenecarboxylate
To 1.4 g of 2-amino-4-methoxy-6-methylpyrimidine in 30 ml of anhydrous acetonitrile was added at ambient temperature, with stirring 3.6 g of 2-methoxycarbonyl-3-thiophenesulfonylisocyanate. The mixture was heated to the boiling point and then allowed to cool to ambient temperature. After stirring for sixteen hours the precipitate present in the mixture was filtered off and washed with anhydrous ethyl ether. The product thus obtained which melted at 165°-173° showed absorption peaks by infrared spectroscopy at 1720 and 1700 cm-1, consistent for the carbonyl groups in the desired product.

reactant | 2-amino-4-methoxy-6-methylpyrimidine | 1.4 g | NC1=NC(=CC(=N1)OC)C | C6H9N3O
reactant | 2-methoxycarbonyl-3-thiophenesulfonylisocyanate | 3.6 g | COC(=O)C=1SC=CC1S(=O)(=O)N=C=O | C7H5NO5S2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | Methyl 3-[[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]aminosulfonyl]-2-thiophenecarboxylate | COC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(SC=C1)C(=O)OC | C13H14N4O6S2
